datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>C[C:10]([C:11]#[N:12])([C:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1 10,11=10,20;12=11,12"
"C/[CH:10]=[CH:11]\[CH2:62][Si:63](C)(C)C.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10](C)[CH+:11][CH2:62][Si:63](C)(C)C)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[SiH:11]([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[SiH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:11]1([H:10])[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1.C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>C[C+:11]1[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1.C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:61]([O-:10])=[O:62])C=C1.N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>N#C[CH:20]([O:10][C:61](C1=CC=CC=C1)=[O:62])[CH:21]=[C:22]=[N-:23] 10=20;20,21=21,22;22,23=23"
"C1CCC[C:11](=[CH2:10])CC1.C1CC[C:21](=[O:20])C1>>C1CCC[C+:11]([CH2:10][O:20][C-:21]2CCCC2)CC1 10,11=10,20;20,21=21"
"Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1.[O+]#C[Mn-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10]>>Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1.[H:10][F:20].[O+]#C[Mn-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21"
"COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1.C[C:10](C)=[N+:11]([O-:12])[O-:62]>>COC1=CC=[N+](C[C:21]([CH:20]([C:10](C)(C)[N+:11](=[O:12])[O-:62])[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].F[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([C:10]2(F)[S:61](=[O:62])(=[O:82])C3=C(C=CC=C3)[S:71]2(=[O:72])=[O:92])/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[Si:63](C)(C)[O:12][C:11](=[CH2:10])[CH:72]=[CH2:73].FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34]>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].C[Si:63](C)(C)[O+:12]=[C:11]([CH2:10][S:20]C(F)(F)F)[CH:72]=[CH2:73] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.C[C-:10]([C:61](C)=[O:62])[C:71](C)=[O:72]>>C[C:10]([CH2:20]C1C(C2=CC=CC=C2)[Pd-2:21]1([P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1)[P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1)([C:61](C)=[O:62])[C:71](C)=[O:72] 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[Si:11](Cl)(Cl)[H:10]>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].C[Si+:11](Cl)Cl 10,11=10,20;20,21=21,22;22,23=23"
"C1[CH:20]=[CH:21][C:22](=[O:23])[O:33]1.CC[O:82][C:71]([C-:10](C(C)C)[C:61](=[O:62])[O:112]CC)=[O:72]>>CC[O:82][C:71]([C:10](C(C)C)([CH:20]1C[O:33][C:22]([O-:23])=[CH:21]1)[C:61](=[O:62])[O:112]CC)=[O:72] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.CC[N:82](CC)/[C:11](=[CH:10]/[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[O-:12]>>CC[N:82](CC)[C:11]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:45]=[CH:46]1)[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:12] 10,11=10,20;12=11,12"
